US07872031B2
(Z)-tert-Butyl 3,4-dihydro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-azepine-1(7H)-carboxylate (510 mg, 1.44 mmol, 1.1 eq.) was dissolved in DME (14 mL) and degassed with nitrogen for 15 minutes. NaHCO3 (1.2 M solution, 3.25 mL, 3.9 mmol, 3 eq.) and 5-bromo-3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine (420 mg, 1.3 mmol, 1 eq.) were added and the mixture degassed with nitrogen for an additional 30 minutes. PdCl2(dppf)2 (95 mg, 0.13 mmol, 0.1 eq.) was added and the mixture degassed with nitrogen for an additional 15 minutes. The reaction was microwaved in a sealed tube for 20 min at 90° C. To drive the reaction to completion, additional PdCl2(dppf)2 (95 mg, 0.13 mmol, 0.1 eq.) was added under an atmosphere of nitrogen and the reaction microwaved for an additional 20 min at 90° C. The mixture was concentrated, NaHCO3 was added, and the product was extracted with ethyl acetate. The organics were filtered through floricil and purified by silica gel chromatography (EtOAc/hexanes) to provide (E)-tert-butyl 5-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-3,4-dihydro-2H-azepine-1(7H)-carboxylate (360 mg, 0.76 mmol, 53% yield); 1H NMR (300 MHz, CDCl3): 8.2 (m, 1H); 7.5 (m, 1H); 7.45-7.3 (m, 2H); 7.02 (s, 1H); 6.4 (br s, 2H); 5.6 (m, 1H); 3.8 (m, 2H); 3.55 (m, 2H); 2.2 (m, 2H); 1.7 (m, 2H) 1.45 (s, 9H).

reactant | (Z)-tert-Butyl 3,4-dihydro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-azepine-1(7H)-carboxylate | 1.44 mmol, 510 mg, 1.1 eq. | CC1(OB(OC1(C)C)/C=1/CCCN(C\C1)C(=O)OC(C)(C)C)C | C17H30BNO4
reactant | NaHCO3 | 3.9 mmol, 1.2 M, 3.25 mL, 3 eq. | C(=O)(O)[O-].[Na+]
reactant | 5-bromo-3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine | 1.3 mmol, 420 mg, 1 eq. | BrC=1C=C(C(=NC1)N)C1=NN=NN1C1=C(C(=CC=C1)F)F | C12H7BrF2N6
solvent | DME | 14 mL | COCCOC | C4H10O2
catalyst | PdCl2(dppf)2 | 0.13 mmol, 95 mg, 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | PdCl2(dppf)2 | 0.13 mmol, 95 mg, 0.1 eq. | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (E)-tert-butyl 5-(6-amino-5-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-3-yl)-3,4-dihydro-2H-azepine-1(7H)-carboxylate | 0.76 mmol, 360 mg, 53% yield | NC1=C(C=C(C=N1)\C=1\CCCN(C/C1)C(=O)OC(C)(C)C)C1=NN=NN1C1=C(C(=CC=C1)F)F | C23H25F2N7O2
